US09079914B2
30-(1) Synthesis of [(3S,4R,5R)-3-(2-Fluoro-phenyl)-4-hydroxymethyl-5-methyl-tetrahydro-furan-3-yl]-carbamic acid tert-butylester
[(2R,3R,4S)-4-Amino-4-(2-fluoro-phenyl)-2-methyl-tetrahydro-furan-3-yl]-methanol (2.5 g, 11.10 mmol) was dissolved in THF. N,N-diethylethanamine (1.34 g, 13.31 mmol) was added to the reaction mixture, followed by di-tert-butyl dicarbonate (2.66 g, 12.20 mmol). The reaction was stirred at RT. The reaction was followed by TLC (Rf 0.60 in Hexane/EtOAc 50%). After 18 h, sat. aq. NaHCO3 (100 ml) was added, then extracted with EtOAc (2×100 ml), dried over MgSO4 and concentrated. The mixture was then purified by flash chromatography (hexane/EtOAc 0-40%). 2.70 g (75% yield) of the title compound was isolated.

reactant | [(2R,3R,4S)-4-Amino-4-(2-fluoro-phenyl)-2-methyl-tetrahydro-furan-3-yl]-methanol | 11.10 mmol, 2.5 g | N[C@@]1([C@@H]([C@H](OC1)C)CO)C1=C(C=CC=C1)F | C12H16FNO2
reactant | N,N-diethylethanamine | 13.31 mmol, 1.34 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 12.20 mmol, 2.66 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | Hexane EtOAc | CCCCCC.CCOC(=O)C
product | [(3S,4R,5R)-3-(2-Fluoro-phenyl)-4-hydroxymethyl-5-methyl-tetrahydro-furan-3-yl]-carbamic acid tert-butylester | 2.70 g, 75% yield | C(C)(C)(C)OC(N[C@]1(CO[C@@H]([C@H]1CO)C)C1=C(C=CC=C1)F)=O | C17H24FNO4
